US04460579
(c) (2-Amino-3-phenylpropyl)phosphinic acid
A mixture of [2-[[(4-methylphenyl)sulfonyl]amino]-3-phenylpropyl]phosphonic acid, diethyl ester (5.9 g., 13.9 mmole), phenol (8.0 g., 85.1 mmole), and 48% aqueous hydrobromic acid (50 ml.) is refluxed for 5.5 hours. The cooled mixture is diluted with water (50 ml.) and washed with ethyl acetate (2×50 ml.). The aqueous phase is evaporated to dryness, taken up in water (30 ml.) and evaporated again. This is repeated twice more. Finally, the residue is taken up in water and applied to an AG 50 W-X2 (H+ form) column (60 ml. bed volume) and eluted first with water then with 5% pyridine-water. The fractions containing the desired product are combined and evaporated to dryness. The solid residue is triturated with acetonitrile to give 2.55 g. of (2-amino-3-phenylpropyl)phosphonic acid as an off-white crystalline solid; m.p. 347° (dec.); TLC (isopropanol/conc. NH4OH/water; 7:2:1) spot at Rf =0.27.

reactant | [2-[[(4-methylphenyl)sulfonyl]amino]-3-phenylpropyl]phosphonic acid, diethyl ester | 13.9 mmole, 5.9 g | CC1=CC=C(C=C1)S(=O)(=O)NC(CP(OCC)(OCC)=O)CC1=CC=CC=C1 | C20H28NO5PS
reactant | phenol | 85.1 mmole, 8.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | (2-amino-3-phenylpropyl)phosphonic acid | NC(CP(O)(O)=O)CC1=CC=CC=C1 | C9H14NO3P
reactant | NH4OH water | [NH4+].[OH-].O
solvent | water | 50 ml | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (2-Amino-3-phenylpropyl)phosphinic acid | NC(CP(O)=O)CC1=CC=CC=C1 | C9H14NO2P
